US05932590
Preparation of 4-{3-[2-(methylsulfonylethyl)-(S)-1,2,3,4-tetrahydro-isoquinolin-3-yl-methyl]-3H-imidazol-4-yl-methyl}-benzonitrile
The same procedure as described in step D of Example 5 above was used to mix (S)-[2-(methylsulfonylethyl)-3-(hydroxymethyl)]-1,2,3,4-tetrahydroisoquinoline (0.12 g, 0.445 mmol), 1-trityl-4-(4-cyanobenzyl)imidazole (0.19 g, 0.445 mmol), diisopropylethylamine (0.31 ml, 1.78 mmol), and triflic anhydride (0.075 ml, 0.445 mmol) in 5 ml methylene chloride. The crude product was obtained which was chromatographed on silica gel using methylene chloride:methanol:amonia hydroxide 98:2:0.2 and yielded the title compound.

reactant | 1-trityl-4-(4-cyanobenzyl)imidazole | 0.445 mmol, 0.19 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CC1=CC=C(C=C1)C#N | C30H23N3
reactant | diisopropylethylamine | 1.78 mmol, 0.31 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | triflic anhydride | 0.445 mmol, 0.075 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-{3-[2-(methylsulfonylethyl)-(S)-1,2,3,4-tetrahydro-isoquinolin-3-yl-methyl]-3H-imidazol-4-yl-methyl}-benzonitrile | CS(=O)(=O)CCN1CC2=CC=CC=C2C[C@H]1CN1C=NC=C1CC1=CC=C(C#N)C=C1 | C24H26N4O2S
